US09169237B1
1-[3-(methylamino)propyl]-1-(4-fluorophenyl)-1,3-dihydro-2-benzofuran-5-carbonitrile
The title compound was prepared according to the method of C. Jin, et al (Synthetic Communications, 2007, 37, 901-908). Thus, citalopram hydrobromide (5.5 g, 13.6 mmol) in 500 mL EtOAc was washed with dilute ammonium hydroxide (100 mL). The EtOAc layer was washed 3×100 mL saturated aqueous NaCl and dried with MgSO4. The solvent was removed in vacuo and the residue was treated with 1-chlorethyl chloroformate (29.6 mL, 27.2 mmol), heated to 130° C. for 6 hr, cooled to rt and concentrated in vacuo. The residue was dissolved with 150 mL CH3OH and heated for 5 hr at 65° C. The solvents were then removed in vacuo. The crude product was dissolved in THF (50 mL) and 50 mL of 1N NaOH were added. The mixture was stirred at rt for an additional 14 hr, then extracted with EtOAc (3×50 mL). The extracts were washed with saturated NaCl (3×100 mL), dried with Na2SO4 and the solvents removed. Chromatography on silica gel, eluting with a gradient (100% CH2Cl2 to 50% CH3OH: 50% CH2Cl2) gave the product as a clear oil, 3.102 g (74%).

reactant | citalopram hydrobromide | 13.6 mmol, 5.5 g | CN(C)CCCC1(C=2C=CC(=CC2CO1)C#N)C=3C=CC(=CC3)F.Br
reactant | 1-chlorethyl chloroformate | 27.2 mmol, 29.6 mL | ClC(=O)OC(C)Cl | C3H4Cl2O2
solvent | EtOAc | 500 mL | CCOC(=O)C | C4H8O2
solvent | ammonium hydroxide | 100 mL | [OH-].[NH4+]
product | 1-[3-(methylamino)propyl]-1-(4-fluorophenyl)-1,3-dihydro-2-benzofuran-5-carbonitrile | CNCCCC1(OCC2=C1C=CC(=C2)C#N)C2=CC=C(C=C2)F | C19H19FN2O
